US06790846B2
c) 4-(4-Fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-2H-isoxazol-5-one
Using the procedure from Example 1l set forth above, substitute 2-(4-fluorophenyl)-3-oxo-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid methyl ester for 2-(4-fluorophenyl)-3-oxo-3-pyridin-4-yl-propionic acid methyl ester to produce the title compound.

reactant | 2-(4-fluorophenyl)-3-oxo-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid methyl ester | COC(C(C(C1=NC(=NC=C1)SC)=O)C1=CC=C(C=C1)F)=O | C15H13FN2O3S
reactant | 2-(4-fluorophenyl)-3-oxo-3-pyridin-4-yl-propionic acid methyl ester | COC(C(C(C1=CC=NC=C1)=O)C1=CC=C(C=C1)F)=O | C15H12FNO3
product | 4-(4-Fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-2H-isoxazol-5-one | FC1=CC=C(C=C1)C1=C(NOC1=O)C1=NC(=NC=C1)SC | C14H10FN3O2S
